US05688815
3-Benzyoxy-1-(2-hydroxy-ethyl)-2-[-2-fluorophenyl)-(tetrahydro-pyran-2-yloxo)-methyl]-1H-pyridin-4oone: 5.66 g of 3-benzyloxy-2-[(2-fluorophenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-pyran-4-one are boiled under reflux for 24 hours in 50 ml of ethanol and 10 ml of ethanolamine. Working-up analogously to Example 1c yields 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[(2-fluorophenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-1H-pyridin-4-one in the form of a semi-crystalline yellow mass. Rf value: 0.2 (silica gel 60, ethyl acetate/ethanol 9/1).

reactant | 3-benzyloxy-2-[(2-fluorophenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-pyran-4-one | 5.66 g | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C(OC1OCCCC1)C1=C(C=CC=C1)F | C24H23FO5
reactant | ethanolamine | 10 ml | C(O)CN | C2H7NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[(2-fluorophenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-1H-pyridin-4-one | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(OC1OCCCC1)C1=C(C=CC=C1)F | C26H28FNO5
